US05965592
b) N-[(2'-Cyanobiphenyl-4-yl)methyl]-N-valeryl-(L)-valine benzyl ester
6.2 g (15.5 mmol) of N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester and 8.0 ml of Huinig base, dissolved in 50 ml of methylene chloride, are treated with 2.3 ml of valeryl chloride with stirring and further processed analogously to Example 29b. The title compound is thus obtained as a yellow oil which is further used in crude form (Rf 0.51, toluene-methanol 19:1)

reactant | N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester | 15.5 mmol, 6.2 g | C(C1=CC=CC=C1)OC([C@@H](NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(C)C)=O | C26H26N2O2
reactant | valeryl chloride | 2.3 ml | C(CCCC)(=O)Cl | C5H9ClO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[(2'-Cyanobiphenyl-4-yl)methyl]-N-valeryl-(L)-valine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N(C(CCCC)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(C)C)=O | C31H34N2O3
